US07504513B2
To a solution of 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (41 mg, 0.1 mmol) and thiophene-2-carboxylic acid hydrazide (14.2 mg, 0.1 mmol, Aldrich) in N,N-dimethylformamide (1 ml) was added HATU (38 mg, 0.1 mmol) and diisopropylethylamine (26 μl, 0.15 mmol). The mixture was stirred at ambient temperature overnight. The solvent was reduced in vacuo and water (3 ml) was added. After sonication, the crude was filtered and sent directly for purification with prep-HPLC to afford thiophene-2-carboxylic acid N′-[4-(3-chloro-phenyl)-2-(5,6-dimethoxy benzoimidazol-1-yl)-thiazole-5-carbonyl]-hydrazide (37.9 mg, 70.2%) as a white solid. MS m/z 540 (M+1).

reactant | 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 0.1 mmol, 41 mg | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C(=C2)OC)OC | C19H14ClN3O4S
reactant | thiophene-2-carboxylic acid hydrazide | 0.1 mmol, 14.2 mg | S1C(=CC=C1)C(=O)NN | C5H6N2OS
reactant | HATU | 0.1 mmol, 38 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.15 mmol, 26 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | 3 ml | O | H2O
product | thiophene-2-carboxylic acid N′-[4-(3-chloro-phenyl)-2-(5,6-dimethoxy benzoimidazol-1-yl)-thiazole-5-carbonyl]-hydrazide | 37.9 mg, 70.2% | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)NNC(=O)C=1SC=CC1)N1C=NC2=C1C=C(C(=C2)OC)OC | C24H18ClN5O4S2
